US05736568
N-Benzyl-N-methylethanolamine (5.25 ml), triphenylphosphine (8.48 g) and diethyl azodicarboxylate (5.09 ml) were added to a solution of 3-chloro-2-(dimethylaminomethyl)phenol (6.0 g) in dry THF (200 ml) at ambient temperature with stirring under nitrogen. The mixture was stirred at ambient temperature for 24 hours and then evaporated to dryness under reduced pressure at 30° C. The residue was dissolved in 2M hydrochloric acid, washed with ethyl acetate, and then basified with concentrated sodium hydroxide solution. The mixture was extracted with dichloromethane to give an oil which was distilled under vacuum in a Kugelrohr. The higher boiling fraction which boiled at 140° C. at 0.01 mbar was dissolved in ether and treated with ethereal hydrogen chloride. The mixture was filtered and the solid collected was recrystallised from propan-2-ol to give 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chloro-N,N-dimethylbenzylamine dihydrochloride, m.p. 238°-239° C.

reactant | N-Benzyl-N-methylethanolamine | 5.25 ml | C(C1=CC=CC=C1)N(CCO)C | C10H15NO
reactant | triphenylphosphine | 8.48 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 5.09 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-chloro-2-(dimethylaminomethyl)phenol | 6.0 g | ClC=1C(=C(C=CC1)O)CN(C)C | C9H12ClNO
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 2-[2-(N-benzyl-N-methylamino)ethoxy]-6-chloro-N,N-dimethylbenzylamine dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)N(C)CCOC1=C(CN(C)C)C(=CC=C1)Cl | InChI=1S/C19H25ClN2O.2ClH/c1-21(2)15-17-18(20)10-7-11-19(17)23-13-12-22(3)14-16-8-5-4-6-9-16;;/h4-11H,12-15H2,1-3H3;2*1H
